US07625932B2
Preparation of 4-cyano-1,5-dimethyl-3-(4-trifluoromethanesulfonyloxy-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester
Add trifluoromethanesulfonic anhydride (1.2 Eq.) to 4-cyano-3-(4-hydroxy-phenyl)-1,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester (prepared in example E-238) and pyridine (1.5 Eq) in methylene chloride dropwise with stirring at 0° C. Stir the reaction mixture for 2 hours and then allow the reaction to warm to room temperature. Wash the organic layer with 1.0 N HCl, water, dry over potassium carbonate, filter, and concentrate under reduced vacuum. Purify the residue by silica gel chromatography (Chromatotron™) eluting with methylene chloride to provide the title compound as a yellow solid. Mass spectrum (m/e): 417.1 (M*+1): (Bruker 300) 1H NMR (CDCl3) δ 7.29-7.32 (2H, d), 7.27-7.29 (2H, d), 4.01-4.11 (2H, dd), 3.85-3.89 (3H, s), 2.43-2.47 (3H, s), 0.90-1.00 (3H, t).

reactant | trifluoromethanesulfonic anhydride | 1.2 Eq. | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-cyano-3-(4-hydroxy-phenyl)-1,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)O)C#N)C)C | C16H16N2O3
reactant | pyridine | 1.5 Eq | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-cyano-1,5-dimethyl-3-(4-trifluoromethanesulfonyloxy-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C#N)C)C | C17H15F3N2O5S
